US03971789
7-Bromo-4-chloro-quinoline and 2-amino benzoic acid are refluxed in dilute hydrochloric acid for 1 hour to give 2-(7-bromo-4-quinolylamino) benzoic acid.

reactant | 7-Bromo-4-chloro-quinoline | BrC1=CC=C2C(=CC=NC2=C1)Cl | C9H5BrClN
reactant | 2-amino benzoic acid | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
solvent | hydrochloric acid | Cl | ClH
product | 2-(7-bromo-4-quinolylamino) benzoic acid | BrC1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)O)C=CC=C1 | C16H11BrN2O2
